US06949571B2
3-(2-Hydroxypyridin-6-yl)-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one
20 mg of 3-(2-methoxypyridin-6-yl)-1-phenyl-5-(pyridin-2-yl)-1,2-dihydropyridin-2-one is added to 3 ml of 5N hydrochloric acid. The mixture was heated under reflux for 3 hours, to which 0.5 ml of concentrated hydrochloric acid was added, and further stirred for 1 hour. The reaction mixture was concentrated under a vacuum and washed with ether, to quantitatively obtain the subject compound.

reactant | 3-(2-methoxypyridin-6-yl)-1-phenyl-5-(pyridin-2-yl)-1,2-dihydropyridin-2-one | 20 mg | COC1=NC(=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C22H17N3O2
reactant | hydrochloric acid | 5N, 3 ml | Cl | ClH
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
product | 3-(2-Hydroxypyridin-6-yl)-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | OC1=NC(=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C21H15N3O2
